US06093728
2-amino-3-nitro-6-(phenylmercapto)pyridine was prepared by heating 2-amino-6-chloro-3-nitropyridine (84.0 g, 0.484 mol) and sodium thiophenolate (Fluka) (72.0 g, 0.545 mol) in 2-propanol (1500 mL) under reflux for 2 hours. After cooling to room temperature the suspension was diluted with water (100 ml), the solid was collected by vacuum filtration, washed with water and 2-propanol, and dried at 50° C. under vacuum to give 109.1 g (95% yield) of 2-amino-3-nitro-6-(phenylmercapto)pyridine, m.p. 148-152° C.).

reactant | 2-amino-6-chloro-3-nitropyridine | 0.484 mol, 84.0 g | NC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H4ClN3O2
reactant | sodium thiophenolate | 0.545 mol, 72.0 g | C1(=CC=CC=C1)[S-].[Na+]
solvent | 2-propanol | 1500 mL | CC(C)O | C3H8O
solvent | water | 100 ml | O | H2O
product | 2-amino-3-nitro-6-(phenylmercapto)pyridine | 109.1 g, 95% yield | NC1=NC(=CC=C1[N+](=O)[O-])SC1=CC=CC=C1 | C11H9N3O2S
